US06668527B2
E. (4-Trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester
Trifluoromethane sulfonic anhydride (32.2 mmol) was added dropwise over 5 minutes to a −40° C. pyridine (70 mL) solution of (4-hydroxy-phenyl)-acetic acid methyl ester (5.35 g, 32.2 mmol). The reaction was stirred at −40° C. for 10 minutes and then at 0° C. for 2 hours. The reaction was diluted with diethyl ether and washed with water and 2N hydrochloric acid. The organic portion was dried over magnesium sulfate and concentrated in vacuo. The crude residue was chromatographed on a Biotage Flash 40M column eluting with ethyl acetate/hexanes (1:4) to provide the title compound as a clear, colorless oil, which crystallized upon standing 9.27 g, 97%). 1H NMR (400 MHz, CDCl3) δ7.37-7.34 (m, 2H), 7.24-7.21 (m, 2H), 3.70 (3H), 3.64 (2H).

reactant | Trifluoromethane sulfonic anhydride | 32.2 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
reactant | (4-hydroxy-phenyl)-acetic acid methyl ester | 32.2 mmol, 5.35 g | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4-Trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C10H9F3O5S
